US07429609B2
900 mg of 2-benzyl-5-(2-naphthyl)-2H-pyrazol-3-ylamine obtained from 3-(naphthalen-2-yl)-3-oxopropionitrile and benzyl hydrazine in the similar method as described in Production example 30 was subjected to the similar reaction as described in Production example 31, to afford 770 mg of the title compound as a pale yellow powder.

reactant | 3-(naphthalen-2-yl)-3-oxopropionitrile | C1=C(C=CC2=CC=CC=C12)C(CC#N)=O | C13H9NO
reactant | benzyl hydrazine | C(C1=CC=CC=C1)NN | C7H10N2
product | 2-benzyl-5-(2-naphthyl)-2H-pyrazol-3-ylamine | 900 mg | C(C1=CC=CC=C1)N1N=C(C=C1N)C1=CC2=CC=CC=C2C=C1 | C20H17N3
